US06992083B2
To a stirred solution of 2.80 g (8.85 mmol) [7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester in 100 ml dioxane and 30 ml ethylene glycol was added 100 ml of a 5 N aq. sodium hydroxide solution, and the mixture was heated at 100° C. for 16 h. After cooling to room temperature the mixture was poured onto water and extracted three times with ethyl acetate. The combined organic phases were washed with brine, then dried over sodium sulphate and concentrated in vacuo. Trituration in ether afforded 0.95 g (42%) 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine as an off-white solid. ES-MS m/e (%): 259 (M+H+, 100).

reactant | [7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-carbamic acid methyl ester | 8.85 mmol, 2.80 g | COC(NC=1OC2=C(N1)C(=CC=C2C2=CC=C(C=C2)F)OC)=O | C16H13FN2O4
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl-amine | 0.95 g, 42% | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)N)OC | C14H11FN2O2
